US04474754
2.78 Grams of Z-Tyr-Asn-Leu-OEt was dissolved in 30 ml of methanol, further 1.21 ml of hydrazine hydrate was added to the solution and the mixture was allowed to stand overnight, the crystals formed were collected by filtration, then washed with a small amount of methanol to obtain 3.10 g of Z-Tyr-Asn-Leu-NHNH2.

reactant | Z-Tyr-Asn-Leu-OEt | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C29H38N4O8
reactant | hydrazine hydrate | 1.21 ml | O.NN
solvent | methanol | 30 ml | CO | CH4O
product | Z-Tyr-Asn-Leu-NHNH2 | 3.10 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C27H36N6O7
